US06291455B1
4-(2-Chloroethyl)morpholine hydrochloride (40 mg, 2.1 mmol) was added to 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline (63 mg, 0.2 mmol), (prepared as described for the starting material in Example 4), and potassium carbonate (95 mg, 0.69 mmol) in DMF (3 ml) and the mixture heated at 100° C. for 3 hours. The mixture was allowed to cool, the volatiles were removed by evaporation and the residues partitioned between water and methylene chloride. The organic phase was separated, passed through phase separating paper and the solvent was removed by evaporation. The residue was dissolved in acetone, and hydrogen chloride in ether (0.2 ml of a 1M solution, 0.2 mmol) was added. The precipitated product was collected by filtration and dried to give 4-(4-chloro-2-fluoroanilino)4-methoxy-7-(2-morpholinoethoxy)quinazoline hydrochloride (50 mg, 50%).

reactant | 4-(2-Chloroethyl)morpholine hydrochloride | 2.1 mmol, 40 mg | Cl.ClCCN1CCOCC1
reactant | 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline | 0.2 mmol, 63 mg | ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C=C1)F | C15H11ClFN3O2
reactant | potassium carbonate | 0.69 mmol, 95 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 4-(4-chloro-2-fluoroanilino)4-methoxy-7-(2-morpholinoethoxy)quinazoline hydrochloride | 50 mg, 50% | Cl.ClC1=CC(=C(NC2(NC=NC3=CC(=CC=C23)OCCN2CCOCC2)OC)C=C1)F | InChI=1S/C21H24ClFN4O3.ClH/c1-28-21(26-19-5-2-15(22)12-18(19)23)17-4-3-16(13-20(17)24-14-25-21)30-11-8-27-6-9-29-10-7-27;/h2-5,12-14,26H,6-11H2,1H3,(H,24,25);1H
